.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-2N5
* Inductance = 2.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-2N5_freq port1 port2 PARAMS: Cpar=0.21pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=4.5
+ R2=0.001
+ C= {Cpar}
+ K1=0.0000022
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=6.54
+ L_F0=2000E6
+ PkZ=0
.ends 1512SP-2N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-2N7
* Inductance = 2.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-12GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-2N7_freq port1 port2 PARAMS: Cpar=0.11pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=12.4
+ R2=0.003
+ C= {Cpar}
+ K1=0.0000022
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=6.36
+ L_F0=1800E6
+ PkZ=0
.ends 1512SP-2N7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-4N7
* Inductance = 4.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-4N7_freq port1 port2 PARAMS: Cpar=0.22pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=4.5
+ R2=0.002
+ C= {Cpar}
+ K1=0.00000355
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=11
+ L_F0=1800E6
+ PkZ=0
.ends 1512SP-4N7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-5N6
* Inductance = 5.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-5N6_freq port1 port2 PARAMS: Cpar=0.2pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=3.8
+ R2=0.0032
+ C= {Cpar}
+ K1=0.00000425
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=12.4
+ L_F0=1700E6
+ PkZ=0
.ends 1512SP-5N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-6N8
* Inductance = 6.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-6N8_freq port1 port2 PARAMS: Cpar=0.21pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=4.3
+ R2=0.0021
+ C= {Cpar}
+ K1=0.0000045
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=15.1
+ L_F0=1700E6
+ PkZ=0
.ends 1512SP-6N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-8N2_freq port1 port2 PARAMS: Cpar=0.18pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=8.5
+ R2=0.0029
+ C= {Cpar}
+ K1=0.00000588
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=18.2
+ L_F0=1700E6
+ PkZ=0
.ends 1512SP-8N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-10N_freq port1 port2 PARAMS: Cpar=0.3pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=5.7
+ R2=0.0025
+ C= {Cpar}
+ K1=0.0000076
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=22.2
+ L_F0=1700E6
+ PkZ=0
.ends 1512SP-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-12N_freq port1 port2 PARAMS: Cpar=0.28pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=10.6
+ R2=0.0035
+ C= {Cpar}
+ K1=0.0000087
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=25
+ L_F0=1600E6
+ PkZ=0
.ends 1512SP-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-15N_freq port1 port2 PARAMS: Cpar=0.21pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=17.6
+ R2=0.005
+ C= {Cpar}
+ K1=0.0000097
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=31.2
+ L_F0=1600E6
+ PkZ=0
.ends 1512SP-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-18N_freq port1 port2 PARAMS: Cpar=0.14pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=20.2
+ R2=0.0093
+ C= {Cpar}
+ K1=0.0000116
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=37.6
+ L_F0=1600E6
+ PkZ=0
.ends 1512SP-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-22N_freq port1 port2 PARAMS: Cpar=0.15pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=25.9
+ R2=0.0053
+ C= {Cpar}
+ K1=0.0000134
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=43
+ L_F0=1500E6
+ PkZ=0
.ends 1512SP-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-27N_freq port1 port2 PARAMS: Cpar=0.093pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=68.7
+ R2=0.0106
+ C= {Cpar}
+ K1=0.000025
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=52.8
+ L_F0=1500E6
+ PkZ=0
.ends 1512SP-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-33N_freq port1 port2 PARAMS: Cpar=0.063pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=88.4
+ R2=0.0086
+ C= {Cpar}
+ K1=0.0000207
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=64.4
+ L_F0=1500E6
+ PkZ=0
.ends 1512SP-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-43N
* Inductance = 43nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-43N_freq port1 port2 PARAMS: Cpar=0.088pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=105
+ R2=0.0106
+ C= {Cpar}
+ K1=0.0000276
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=94.6
+ L_F0=1700E6
+ PkZ=0
.ends 1512SP-43N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-51N
* Inductance = 51nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-51N_freq port1 port2 PARAMS: Cpar=0.042pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=500
+ R2=0.0145
+ C= {Cpar}
+ K1=0.00003
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=275
+ L_EL=132
+ L_F0=2000E6
+ PkZ=0
.ends 1512SP-51N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1512SP-62N
* Inductance = 62nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1512SP-62N_freq port1 port2 PARAMS: Cpar=0.053pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=400
+ R2=0.0155
+ C= {Cpar}
+ K1=0.000034
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=350
+ L_EL=145
+ L_F0=2300E6
+ PkZ=0
.ends 1512SP-62N_freq

